*SPICE Simulation of National Semiconductor LM35 Precision Centigrade Temperature Sensor
*
*
X1 1 LM35
*
.subckt LM35 Out
* Simulation of National Semiconductor LM35 Precision Centigrade Temperature Sensor
* By Colin Seymour http://www.cjseymour.plus.com/
*
* Spec for LM35 connected as Full-Range Centigrade Temperature Sensor:
* Vout = +1500 mV at +150°C
*      = +250 mV at +25°C
*      = -550 mV at -55°C
*
* Current source I1 and resistor R0 create a voltage source
* with a linear temperature coefficient tc1
* controlled by the SPICE temperature
* R = R0 * (1. + dt * tc1)
* where R0 is the resistance at the nominal temperature
* dt is the difference between the resistor's temperature
* and the nominal temperature TNOM
* LM35 tempco = 0.01 V per degree C
I1 0 N001 1
R0 N001 0 1 tc1=0.01
*
* Current source I2 and resistor R1 create a similar voltage source
* with the same linear temperature coefficient, but the temperature
* is fixed at zero C, which is the reference temperature
* for the LM35
I2 0 N002 1
R1 N002 0 1 tc1=0.01 TEMP=0
*
* G1 and R2 subtract the reference voltage from the 
* temperature dependent voltage to obtain a temperature
* dependent output with zero at the reference temperature
* for the LM35.
* The output impedance is set to 0.1 ohms to match the
* dynamic impedance of the LM35 for a 1mA load
G1 0 Out N001 N002 10
R2 Out 0 0.1
.ends

* Simulation commands to plot the operating point
* over a temperature range
.step temp -55 150 5
.OP
.print V(1)

.end
